US07888352B2
4-(2-Thiophenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (759 mg) was dissolved in methanol (10 ml) and dichloromethane (5 ml), 2M HCl in diethyl ether (11.4 ml) was added and the reaction mixture was stirred at room temperature overnight, then cooled in ice bath, the resulted precipitate was filtered, washed with ether to yield 4-(2-thiophenesulfonyl)-piperazine hydrochloride salt (529 mg).

reactant | 4-(2-Thiophenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 759 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1SC=CC1 | C13H20N2O4S2
reactant | HCl | 2M | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 11.4 ml | C(C)OCC | C4H10O
product | 4-(2-thiophenesulfonyl)-piperazine hydrochloride salt | 529 mg | Cl.S1C(=CC=C1)S(=O)(=O)N1CCNCC1 | InChI=1S/C8H12N2O2S2.ClH/c11-14(12,8-2-1-7-13-8)10-5-3-9-4-6-10;/h1-2,7,9H,3-6H2;1H
